US08835428B2
Step 6: Ethyl 3-(4-(3-(2,6-difluorophenyl)ureido)-3-methylphenyl)isoxazole-5-carboxylate
Ethyl 3-(4-amino-3-methylphenyl)isoxazole-5-carboxylate (1.0 equiv.), 2,6-difluoro phenyl isocyanate (1.2 equiv.) and tetrahydrofuran was taken in a round bottom flask and was stirred at room temperature for 48 hours. The solid precipitate was filtered and washed with minimum quantity of THF and dried in vacuo to afford the title compound as a white solid (91%); 1H NMR (300 MHz, DMSO-d6) δ: 1.29-1.34 (t, J=7.0 Hz, 3H), 2.31 (s, 3H), 4.33-4.40 (q, 2H), 7.11-7.17 (m, 2H), 7.24-7.31 (m, 1H), 7.71-7.74 (dd, J=8.7 Hz, 1.8 Hz, 1H), 7.81 (s, 2H), 8.04-8.07 (d, J=8.7 Hz, 1H), 8.31 (s, 1H), 8.65 (s, 1H); IR (KBr) 3292, 3132, 2984, 1723, 1644, 1621, 1588, 1560 1471, 1449, 1288, 1235, 1125, 1006, 849, 768 cm−1.

reactant | Ethyl 3-(4-amino-3-methylphenyl)isoxazole-5-carboxylate | 1.0 equiv. | NC1=C(C=C(C=C1)C1=NOC(=C1)C(=O)OCC)C | C13H14N2O3
reactant | 2,6-difluoro phenyl isocyanate | 1.2 equiv. | FC1=C(C(=CC=C1)F)N=C=O | C7H3F2NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl 3-(4-(3-(2,6-difluorophenyl)ureido)-3-methylphenyl)isoxazole-5-carboxylate | 91% | FC1=C(C(=CC=C1)F)NC(NC1=C(C=C(C=C1)C1=NOC(=C1)C(=O)OCC)C)=O | C20H17F2N3O4
